US04946963
A mixture consisting of 1.51 g (0.0100 mol) of 4-methylbenzohydroxamic acid, mp 148°-150° C. (dec.) (lit. mp 148° C. dec., Beilstein Handbook of Organic Chemistry, series H, vol 9, p. 491), 5 ml of pyridine, and 100 ml of methylene chloride was prepared in a 250 ml round bottom flask. The mixture was cooled in an ice bath, and 1.977 g (0.0100 mol) of diethylmalonyl chloride was added dropwise over a 15 minute period with stirring. The reaction mixture was stirred for 2 hours at room temperature after which time all the hydroxamic acid had dissolved. The solution was extracted two times with 50 mL portions of water, three times with 50 mL portions of 5% hydrochloric acid, and two times with 50 mL portions of 5% sodium carbonate. The methylene chloride was dried (MgSO4) and evaporated to dryness under reduced pressure to give 0.94 g (34.2%) of crude 2-(4-methylbenzoyl)4,4-diethylisoxazolidine-3,5-dione as a solid residue. Recrystallization of the solid from methanol gave pure 2-(4-methylbenzoly)-4,4-diethylisoxazolidine-3,5-dione as a white solid: mp 92°-93° C.; IR (Nujol) 1805 (s,C=O), 1747 (s, C=O), 1695 cm-1 (s, C=O);H1NMR (400 MHz, CDCl3) δ7.70 (d,2H), 7.29 (d,2H), 2.43 (s,3H), 1.95 (q. 4H), 1.00 (t, 6H); High resolution MS, calc'd for: C15H17NO4 : 275.1157. Found: 275.1163. Anal. Calc'd for: C15H17NO4 : C, 65.44; H, 6.23; N, 5.09. Found: C, 65.24; H, 6.45; N, 5.28.

reactant | 4-methylbenzohydroxamic acid | 0.0100 mol, 1.51 g | CC1=CC=C(C(=O)NO)C=C1 | C8H9NO2
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | diethylmalonyl chloride | 0.0100 mol, 1.977 g | C(C)C(C(=O)Cl)(C(=O)Cl)CC | C7H10Cl2O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-methylbenzoyl)4,4-diethylisoxazolidine-3,5-dione | 0.94 g, 34.2% | CC1=CC=C(C(=O)N2OC(C(C2=O)(CC)CC)=O)C=C1 | C15H17NO4
